US05654299
d. 4-(2-Hydroxyphenyl)piperidine
A solution of 1-benzyloxycarbonyl-4-(2-benzyloxyphenyl)piperidine (1.22 g) in 20 mL of tetrahydrofuran was treated with 10% palladium on carbon catalyst (0.12 g) and hydrogenated at the atmospheric pressure for 16 hours. Upon filtration and evaporation of the filtrate the named product was obtained (0.36 g) as a solid; MS: 178; NMR: 1.8-1.9 (m, 4), 2.7-2.8 (m, 2), 3.0 (m, 1), 3.2 (d, J=12, 2), 5.4 (br, 2), 6.7 (d, J=8, 1), 6.8 (t, J=7, 1), 7.0-7.1 (m, 1), 7.1 (d, J=7, 2).

reactant | 1-benzyloxycarbonyl-4-(2-benzyloxyphenyl)piperidine | 1.22 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C26H27NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.12 g | [Pd] | Pd
product | 4-(2-Hydroxyphenyl)piperidine | OC1=C(C=CC=C1)C1CCNCC1 | C11H15NO
